US07622492B2
A solution of 2-methoxy-nicotinic acid methyl ester (4.42 g, 26.5 mmol) in tetrahydrofuran (7 mL) was added via an addition funnel over a period of 15-20 min to a cooled (0° C.) mixture of lithium aluminum hydride (1.22 g, 32.1 mmol) in tetrahydrofuran (20 mL). The mixture was stirred at 0° C. for 40 min and then at room temperature for 3 h. The reaction mixture was poured into a solution of potassium sodium tartrate (10% w/v) and the resulting mixture was stirred at room temperature for 25 min. The mixture was filtered through a pad of Celite, washing with ethyl acetate (400 mL). The organic layer of the filtrate was separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (100 mL), dried (magnesium sulfate), filtered and purified using a Biotage 40M system, eluting with 30% ethyl acetate/hexanes, to give (2-methoxy-pyridin-3-yl)-methanol (2.97 g, 81%) as a white solid.

reactant | 2-methoxy-nicotinic acid methyl ester | 26.5 mmol, 4.42 g | COC(C1=C(N=CC=C1)OC)=O | C8H9NO3
reactant | lithium aluminum hydride | 32.1 mmol, 1.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2-methoxy-pyridin-3-yl)-methanol | 2.97 g, 81% | COC1=NC=CC=C1CO | C7H9NO2
